US08012961B2
4.i. 6-hydroxymethyl-4H-pyrido[3,2-b][1,4]thiazin-3-one
To a suspension of 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid methyl ester (WO 02/056882; 36.0 g, 161 mmol) in THF (240 mL) was added a solution of lithium triethylborohydride in THF (1M, 430 g, 3 eq.) at 5-10° C. over 70 min. Acetic acid (87 g, 9 eq.) was added dropwise at 10-25° C. to the brown solution. MeOH (180 mL) was added to the suspension at 20° C. The reaction vessel was then constantly cooled externally at 21-37° C. while a 5% w/w hydrogen peroxide solution (300 mL, 3 eq.) was added over 35 min, and a 10% w/w hydrogen peroxide solution (300 mL, 6 eq.) was added over further 35 min. A sat. aq sodium metabisulfite solution (147 g) was added at 24-36° C. The reaction mixture was concentrated under reduced pressure at 50° C. whereupon the product started to crystallize. MeOH was added to the suspension in three portions (3×180 mL) followed by removal of ca. 180 mL of solvent under reduced pressure after each addition. The solid was filtered, washed with water (2×150 mL) and tert-butyl methyl ether (150 ml). To the wet cake was added toluene in two portions (2×50 mL) followed by the removal of 50 mL solvent under reduced pressure at 50° C. The title compound was obtained as a light yellow solid (22.86 g, 73% yield; m.p. 120-135° C.).

reactant | 3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]thiazine-6-carboxylic acid methyl ester | 161 mmol, 36.0 g | COC(=O)C=1C=CC=2SCC(NC2N1)=O | C9H8N2O3S
reactant | lithium triethylborohydride | C(C)[BH-](CC)CC.[Li+]
reactant | Acetic acid | 87 g, 9 eq. | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | 300 mL, 3 eq. | OO | H2O2
reactant | hydrogen peroxide | 300 mL, 6 eq. | OO | H2O2
reactant | sodium metabisulfite | 147 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | THF | 240 mL | C1CCOC1 | C4H8O
solvent | THF | 1M, 430 g, 3 eq. | C1CCOC1 | C4H8O
solvent | MeOH | 180 mL | CO | CH4O
product | 6-hydroxymethyl-4H-pyrido[3,2-b][1,4]thiazin-3-one | 73% yield | OCC=1C=CC=2SCC(NC2N1)=O | C8H8N2O2S
